US08053447B2
To a stirred solution of 4-hydroxy benzoic acid methyl ester (5.0 g, 32.86 mmol) in dry THF (400 mL) was added triphenyl phosphine (12.93 g, 49.29 mmol) and 1-t-butoxy-carbonyl-4-hydroxypiperidine (6.61 g, 32.86 mmol). The reaction mixture was cooled to 0° C. and DEAD (7.76 mL, 49.29 mmol) was added dropwise over a period of 1 h. The reaction was gradually brought to room temperature and stirring continued for 16 hrs. The solvent was removed under vacuum and ether (100 mL) was added and cooled to 0° C. The solid formed was filtered off and the clear filtrate concentrated and purified by column chromatography (100% heptane to 35% AcOEt in heptane). Desired fractions were pooled and the solvent evaporated in vacuo affording 6.14 g (56%) of 4-(4-methoxycarbonyl-phenoxy)-piperidine-1-carboxylic acid t-butyl ester as an oil.

reactant | 4-hydroxy benzoic acid methyl ester | 32.86 mmol, 5.0 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | triphenyl phosphine | 49.29 mmol, 12.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-t-butoxy-carbonyl-4-hydroxypiperidine | 32.86 mmol, 6.61 g | C(C)(C)(C)ON1C(CC(CC1)O)=C=O | C10H17NO3
reactant | DEAD | 49.29 mmol, 7.76 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4-(4-methoxycarbonyl-phenoxy)-piperidine-1-carboxylic acid t-butyl ester | 6.14 g, 56% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C(=O)OC | C18H25NO5
